* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1361.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
V2 -V 0 -5
R1 N002 N001 909
V3 IN 0 AC 1
C1 N002 N004 47p
R3 N004 N001 2.67K
C2 N001 0 220p
C3 OUT N005 22p
R5 N005 N003 2.21K
R6 N003 N002 1.1K
C4 N003 0 470p
R4 N001 IN 909
R2 OUT N003 1.1K
X§U1 0 N004 +V -V N002 LT1361
X§U2 0 N005 +V -V OUT LT1361
.ac oct 10 10K 10Meg
* 1MHz, 4th Order Butterworth Filter
.lib LT1361.sub
.backanno
.end
